US07176242B2
Step 3: Methyl 8-iodo-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate
To an ice-cold, stirred solution of Methyl 3-amino-4-hydroxy-5-iodobenzoate (2.3 g) and sodium bicarbonate (1.5 g) in 1:1 isobutyl methyl ketone/water (80 mL) was added chloroacetyl chloride (1.1 g), and the reaction mixture was stirred for 1 h. The mixture was warmed to room temperature and heated at reflux for 18 h. After overnight, a beige solid formed. The mixture was filtered, and washed with water and hexanes to give 2.4 g of the title compound: 1H NMR (300 MHz, DMSO-d6) δ 10.98, 7.89, 7.47, 4.79, 3.82.

reactant | Methyl 3-amino-4-hydroxy-5-iodobenzoate | 2.3 g | NC=1C=C(C(=O)OC)C=C(C1O)I | C8H8INO3
reactant | sodium bicarbonate | 1.5 g | C([O-])(O)=O.[Na+]
reactant | chloroacetyl chloride | 1.1 g | ClCC(=O)Cl | C2H2Cl2O
solvent | isobutyl methyl ketone water | 80 mL | CC(=O)CC(C)C.O
product | Methyl 8-iodo-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 2.4 g | IC1=CC(=CC=2NC(COC21)=O)C(=O)OC | C10H8INO4
